US06759429B2
To a solution of 2-methyl-5-nitroquinoxaline (3.67 g) in MeOH (350 mL) was added dropwise a 20% aqueous titanium trichloride (92.9 g) at room temperature. After the addition, the mixture was further stirred for one hour, and concentrated under reduced pressure. The resultant was neutralized by addition of aqueous sodium carbonate solution, and the mixture was extracted four times with ethyl acetate (150 mL). The organic layers were combined, and dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform) to give 2-methyl-5-aminoquinoxaline (2.44 g,79%) as orange crystals.

reactant | 2-methyl-5-nitroquinoxaline | 3.67 g | CC1=NC2=CC=CC(=C2N=C1)[N+](=O)[O-] | C9H7N3O2
solvent | MeOH | 350 mL | CO | CH4O
catalyst | titanium trichloride | 92.9 g | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 2-methyl-5-aminoquinoxaline | 2.44 g, 79% | CC1=NC2=CC=CC(=C2N=C1)N | C9H9N3
